* source ANALOG1_CAD_EXP5
V_V1         VDD_5 0 5Vdc
V_V2         VSS_-5 0 -5Vdc
V_V3         VCC_12 0 12Vdc
R_RsigB         VIB N00581  50 TC=0,0 
R_RG2         0 N00585  70k TC=0,0 
R_RG1         N00585 VCC_12  100k TC=0,0 
R_RSB         0 N00645  1.5k TC=0,0 
R_RDB         N00617 VCC_12  1k TC=0,0 
R_RLB         0 VOB  10k TC=0,0 
C_C1         N00581 N00585  1u  TC=0,0 
C_C2         N00617 VOB  1u  TC=0,0 
X_M1         N00617 N00585 N00645 BS170/PLP
V_Vsin         VIB 0  AC {Vin_B}
+SIN 0 {Vin_B} 10k 0 0 0
V_Vsig         VIA 0  AC {Vin_A}
+SIN 0 {Vin_A} 10k 0 0 0
R_RsigA         VIA N01555  50 TC=0,0 
R_RSA         VSS_-5 N01563  1k TC=0,0 
R_RDA         N01568 VDD_5  1k TC=0,0 
R_RLA         0 VOA  1k TC=0,0 
C_C4         N01555 N01563  1u  TC=0,0 
C_C5         N01568 VOA  1u  TC=0,0 
X_M2         N01568 0 N01563 BS170/PLP
.PARAM  vin_a=1m vin_b=1m
