* source ANALOG1_CAD_EXP7
R_Re1         N00265 N00272  {Re} TC=0,0 
R_Re2         N00272 N00276  {Re} TC=0,0 
R_R3         0 N00222  100k TC=0,0 
R_R4         0 N00348  100k TC=0,0 
R_Rc         VOUT1 +12V  {Rc} TC=0,0 
Q_Q1         +12V N00222 N00265 Q2N3904
Q_Q2         VOUT1 N00348 N00276 Q2N3904
C_C1         VIN N00222  1u  TC=0,0 
C_C2         N00348 VIN  1u  TC=0,0 
V_V1         +12V 0 12V
V_V2         -12V 0 -12V
V_V3         VIN 0  AC 50m
+SIN 0 {Vamp} 10k 0 0 0
R_R6         0 N01409  100k TC=0,0 
R_Re4         N01493 N01453  {Re} TC=0,0 
C_C4         N01409 VIN  1u  TC=0,0 
R_Re3         N01449 N01493  {Re} TC=0,0 
C_C3         VIN N01397  1u  TC=0,0 
R_Rc1         VOUT2 +12V  {Rc} TC=0,0 
Q_Q3         +12V N01397 N01449 Q2N3904
Q_Q4         VOUT2 N01409 N01453 Q2N3904
R_R7         0 N01397  100k TC=0,0 
R_Rt1         -12V N00272  {Rt} TC=0,0 
R_R8         -12V N02322  4.7k TC=0,0 
R_R9         -12V N02326  10k TC=0,0 
R_R10         0 N02326  10k TC=0,0 
Q_Q5         N01493 N02326 N02322 Q2N3904
.PARAM  rc=1k rt=10k vamp=50m re=0.1k vmode=0
