* source ANALOG1_CAD_FINAL_PROJECT_ATTEMPT2
V_V1         VCC 0 12Vdc
R_R1         N00149 VCC  30k TC=0,0 
X_M1         VCC N00149 0 BS170/PLP
X_M2         N00149 N00149 0 BS170/PLP
