* source ANALOG_LAB2
V_V1         N00308 0 20V
R_R1         N00324 N00308  7.5k TC=0,0 
R_R2         N00373 N00377  0.1k TC=0,0 
R_R3         0 N00373  0.68k TC=0,0 
R_R4         N00285 N00308  150k TC=0,0 
R_R5         0 N00285  20k TC=0,0 
R_R6         0 N00338  0.68k TC=0,0 
C_C1         N00278 N00285  2u  TC=0,0 
C_C2         N00324 N00338  1u  TC=0,0 
C_C3         0 N00373  47u  TC=0,0 
V_V2         N00278 0 DC 0Vdc AC 150m 
Q_Q1         N00324 N00285 N00377 Q2N3904
