* source LAB_ANALOGCAD_MINIPROJECT_FEEDBACK
C_C2         N54844 N26805  2.2u  TC=0,0 
Q_Q3         IDIFF N27239 0 Q2N3904
X_M1         N27475 N26847 N27663 BS170/PLP
C_C6         N27513 N27523  10u  TC=0,0 
R_R5         0 N26811  390k TC=0,0 
Q_Q1         VCC1 N26805 N27023 Q2N3904
V_V2         N26947 0  AC 8m
+SIN 0 10m 1k 0 0 0
R_R11         N27023 IDIFF  220 TC=0,0 
R_R17         0 N27663  1k TC=0,0 
Q_Q2         N26817 N26811 N27041 Q2N3904
C_C1         N26817 N26847  2.2u  TC=0,0 
R_R15         0 N26847  240k TC=0,0 
R_R14         N26847 VCC1  1meg TC=0,0 
C_C4         N27475 N44932  2.2u  TC=0,0 
R_R2         N26805 VCC1  390k TC=0,0 
Q_Q4         N27239 N27239 0 Q2N3904
V_V3         VCC1 0 12V
R_R12         N27475 VCC1  10k TC=0,0 
R_R4         N26811 VCC1  390k TC=0,0 
R_R1         N26817 VCC1  15k TC=0,0 
R_R10         IDIFF N27041  220 TC=0,0 
C_C3         N26811 0  2.2u  TC=0,0 
R_R24         N27239 VCC1  22k TC=0,0 
R_R3         0 N26805  390k TC=0,0 
R_R22         0 N27523  1k TC=0,0 
R_Rsig         N54844 N26947  50 TC=0,0 
R_R25         N44932 VCC1  750k TC=0,0 
R_R26         N27513 VCC1  1k TC=0,0 
X_M2         N27513 N44932 N53386 BS170/PLP
R_R27         0 N44932  270k TC=0,0 
R_R28         0 N53386  220 TC=0,0 
R_Rsig1         N54844 0  50 TC=0,0 
