* source LAB_DIG_ELEC_5
R_Ron         N08361 +5V  10k TC=0,0 
D_D1         N08361 N10764 D1N4148 
C_C4         0 N08417  10n  TC=0,0 
X_U3         0 CAP OUT +5V N08417 CAP N08361 +5V 555C
C_C3         0 CAP  4.7n  TC=0,0 
R_RL         0 OUT  10k TC=0,0 
D_D2         N10757 N08361 D1N4148 
V_V1         +5V 0 5V
X_R2         N10764 N10771 N10757 POT PARAMS: SET=1 VALUE=100k
R_R3         CAP N10771  10k TC=0,0 
