* source LAB_DIG_ELEC_5
X_U3         0 VCLK OUT +5V MOD_SIG CAP CAP +5V 555C
R_RL         +5V OUT  10k TC=0,0 
C_C3         0 CAP  10n  TC=0,0 
V_V1         +5V 0 5V
R_R3         CAP +5V  10k TC=0,0 
V_V2         VCLK 0  
+PULSE 5 0 0 1n 1n 12.5u 25u
V_V3         MOD_SIG 0  AC 1
+SIN 1 1 3k 0 0 0
