* source LAB_DIG_ELEC_5
V_V1         +5V 0 5V
R_RL         OUT5 +5V  1k TC=0,0 
R_R3         N14310 +5V  5k TC=0,0 
X_U3         0 CAP7 OUT5 +5V MOD CAP7 N16576 +5V 555C
R_R4         CAP7 N14310  500 TC=0,0 
C_C3         0 N14310  20n  TC=0,0 
V_V2         MOD 0  
+PULSE 4.7 0.3 1n 0.5m 0.5m 1n 1m
R_R5         N16576 N14310  100 TC=0,0 
