* source LAB_ANALOD2_EXP3
R_R1         0 N00285  977 TC=0,0 
R_R2         N00285 N00302  5.86k TC=0,0 
R_R3         N00386 N00248  977 TC=0,0 
R_R4         N00248 N00273  8.8k TC=0,0 
X_U3         0 N00248 VCCP VCCN N00273 uA741
X_U4         N00620 N00285 VCCP VCCN N00302 uA741
V_V5         N00386 0  AC 1
+SIN 0 1 {freq} 0 0 0
V_V6         N00620 0  AC 1
+SIN 0 1 1k 0 0 0
R_R5         N02113 N02123  318.3 TC=0,0 
X_U5         N02239 N02113 VCCP VCCN N02123 uA741
V_V7         N02239 0 DC 0Vdc AC 1Vac 
C_C1         0 N02113  0.1u  TC=0,0 
V_V9         0 VCCN 12V
V_V8         VCCP 0 12V
.PARAM  freq=1k
