* source LAB_ANALOGCAD_EXP1
R_R1         0 N00158  1k TC=0,0 
D_D1         N00149 N00158 Dbreak 
V_V1         N00149 0  AC 5
+SIN 0 5 1k 0 0 0
D_D2         N00579 N00572 D1N754 
D_D3         N00579 0 D1N754 
R_R2         N00563 N00572  1k TC=0,0 
V_V2         N00563 0  AC 10
+SIN 0 10 1k 0 0 0
R_R3         N00891 N00901  300 TC=0,0 
D_D4         0 N00901 D1N754 
R_R4         0 N00901  {RVAL} TC=0,0 
V_V3         N00891 0 7.75
R_R5         N01933 N01943  300 TC=0,0 
V_V4         N01933 0 1V
D_D5         N01943 0 D1N4007 
D_D6         N03085 0 D1N4007 
R_R6         N03075 N03085  315 TC=0,0 
V_V5         N03075 0 1.6
V_V6         N03297 0 1V
D_D7         0 N03307 D1N4007 
R_R7         N03297 N03307  1Meg TC=0,0 
V_V7         N03561 0 7
D_D8         N03561 N03571 D1N4007 
R_R8         0 N03571  1k TC=0,0 
D_D9         N03904 N03914 D1N4007 
R_R9         0 N03914  1k TC=0,0 
V_V8         N03904 0 1V
C_C1         N03914 0  10u  TC=0,0 
R_R10         N04491 N04501  301.3 TC=0,0 
D_D10         0 N04501 D1N754 
D_D11         N05044 N04978 D1N754 
R_R11         N04968 N04978  1k TC=0,0 
V_V10         N04968 0  AC 10
+SIN 0 10 1k 0 0 0
D_D12         N05044 0 D1N754 
R_R12         0 N04501  {RL} TC=0,0 
V_V11         N04491 0  AC 0
+SIN 8 0.25 1k 0 0 0
.PARAM  rval=5.1k rl=19.64k
