* source LAB_ANALOGCAD_EXP2
R_R17         N03260 N03268  51k TC=0,0 
R_R18         0 N03222  1k TC=0,0 
V_V5         N03194 N03222 12V
V_V8         N03260 0  
+SIN 5V 5V 1k 0 0 0
Q_Q6         N03194 N03268 0 Q2N3904
R_R6         0 N03876  989 TC=0,0 
R_R4         N03846 N03798  467.4k TC=0,0 
R_R5         N03850 N03798  3.044k TC=0,0 
Q_Q2         N03850 N03846 N03876 Q2N3904
R_R10         N04156 N04108  32.69k TC=0,0 
R_R13         0 N04190  1002 TC=0,0 
R_R12         N04160 N04108  3.044k TC=0,0 
Q_Q4         N04160 N04156 N04190 Q2N3904
R_R11         0 N04156  6.667k TC=0,0 
R_R16         N04430 N04480  197.7k TC=0,0 
R_R15         0 N04484  499 TC=0,0 
Q_Q5         N04430 N04480 N04484 Q2N3904
R_R14         N04430 N04748  1004 TC=0,0 
V_V9         N03798 0 12V
V_V10         N04108 0 12V
V_V11         N04748 0 12V
R_R1         N06288 N06296  50.37k TC=0,0 
V_V2         N06288 0 0Vdc
Q_Q1         N06222 N06296 0 Q2N3904
R_R2         N06222 N06230  990 TC=0,0 
V_V1         N06230 0 12V
