* source LAB_ANALOGCAD_EXP4
X_M1         VDS N00248 0 BS170/PLP
X_M2         N00507 N00499 N00503 BS170/PLP
X_M3         N00720 0 N00728 BS170/PLP
V_V1         N00248 0 {Vgs1}
V_V2         VDD_12V 0 12Vdc
R_RD         N00507 VDD_12V  1k TC=0,0 
R_RG1         N00499 VDD_12V  100k TC=0,0 
R_RG2         0 N00499  70k TC=0,0 
R_RS         0 N00503  1.5k TC=0,0 
R_R5         VDD_5V N00720  1k TC=0,0 
R_R6         N00728 VSS_-5V  1k TC=0,0 
X_M4         N00991 0 N01029 BS170/PLP
R_R7         VDD_5V N00991  1k TC=0,0 
R_R8         N01029 VSS_-5V  1k TC=0,0 
V_V3         VSS_-5V 0 -5Vdc
V_V4         VDD_5V 0 5Vdc
C_C1         N01473 N01029  1u  TC=0,0 
C_C2         N00991 N01497  1u  TC=0,0 
R_Rsig         N01473 N01737  50 TC=0,0 
R_RL         0 N01497  1k TC=0,0 
V_V5         N01737 0  
+SIN 0 {Vamp1} 10k 0 0 0
V_V6         VDS 0 1Vdc
.PARAM  vamp1=0 vgs1=1
