* source LAB_ANALOGCAD_MINIPROJECT
Q_Q1         VCC1 N00267 N08141 Q2N3904
Q_Q2         N00212 N00226 N08137 Q2N3904
R_R1         N00212 VCC1  10k TC=0,0 
C_C1         N00212 N00552  2.2u  TC=0,0 
C_C2         N29588 N00267  2.2u  TC=0,0 
R_R2         N00267 VCC1  390k TC=0,0 
R_R3         0 N00267  390k TC=0,0 
R_R4         N00226 VCC1  390k TC=0,0 
R_R5         0 N00226  390k TC=0,0 
V_V2         N00504 0  AC 8m
+SIN 0 10m 1k 0 0 0
C_C3         N00226 0  2.2u  TC=0,0 
V_V3         VCC1 0 12V
R_R10         IDIFF N08137  390 TC=0,0 
R_R11         N08141 IDIFF  390 TC=0,0 
X_M1         N08548 N00552 N09928 BS170/PLP
R_R12         N08548 VCC1  6.8k TC=0,0 
R_R14         N00552 VCC1  120k TC=0,0 
R_R15         0 N00552  91k TC=0,0 
C_C4         N08548 N10788  2.2u  TC=0,0 
R_R17         0 N09928  3.9k TC=0,0 
R_R19         N11122 VCC1  1k TC=0,0 
C_C6         N11122 N11160  10u  TC=0,0 
R_R20         0 N10788  220k TC=0,0 
R_R18         N10788 VCC1  200k TC=0,0 
X_M2         N11122 N10788 N23193 BS170/PLP
R_R22         0 N11160  1k TC=0,0 
Q_Q3         IDIFF N14931 0 Q2N3904
Q_Q4         N14931 N14931 0 Q2N3904
R_R24         N14931 VCC1  39k TC=0,0 
R_R25         0 N23193  1k TC=0,0 
C_C7         0 N23193  1u  TC=0,0 
C_C5         0 N09928  1u  TC=0,0 
R_R26         0 N29588  50 TC=0,0 
R_R27         N29588 N00504  50 TC=0,0 
