* source LAB_ANALOGCAD_MINIPROJECT_FEEDBACK
C_C2         N268650 N26805  2.2u  TC=0,0 
Q_Q3         IDIFF N27239 0 Q2N3904
X_M1         N27475 N26847 N27663 BS170/PLP
C_C6         N27463 N27523  10u  TC=0,0 
R_R5         0 N26811  390k TC=0,0 
Q_Q1         VCC1 N26805 N27023 Q2N3904
C_C7         0 N27649  1u  TC=0,0 
V_V2         N26947 0  AC 8m
+SIN 0 2.5m 1k 0 0 0
R_R11         N27023 IDIFF  390 TC=0,0 
R_R17         0 N27663  3.9k TC=0,0 
Q_Q2         N26817 N26811 N27041 Q2N3904
C_C1         N26817 N26847  2.2u  TC=0,0 
R_R15         0 N26847  91k TC=0,0 
R_R14         N26847 VCC1  120k TC=0,0 
C_C4         N27475 N27457  2.2u  TC=0,0 
R_R2         N26805 VCC1  390k TC=0,0 
Q_Q4         N27239 N27239 0 Q2N3904
C_C5         0 N27663  1u  TC=0,0 
V_V3         VCC1 0 12V
R_R12         N27475 VCC1  6.8k TC=0,0 
R_R4         N26811 VCC1  390k TC=0,0 
R_R1         N26817 VCC1  10k TC=0,0 
R_R10         IDIFF N27041  390 TC=0,0 
C_C3         N26811 N26971  2.2u  TC=0,0 
R_R24         N27239 VCC1  39k TC=0,0 
R_R25         0 N27649  1k TC=0,0 
R_R3         0 N26805  390k TC=0,0 
X_M2         N27463 N27457 N27649 BS170/PLP
R_R19         N27463 VCC1  1k TC=0,0 
R_R18         N27457 VCC1  200k TC=0,0 
R_R20         0 N27457  220k TC=0,0 
R_R22         0 N27523  1k TC=0,0 
R_Rsig         N268650 N26947  50 TC=0,0 
R_R26         N27523 N26971  10k TC=0,0 
R_R27         0 N26971  1k TC=0,0 
