* source ANALOG2_PROJECT
V_V1         +10V 0 10V
V_V2         0 -10V 10V
X_U1         VIN N00375 +10V -10V N00393 uA741
R_R1         N00375 VOUT  1k TC=0,0 
R_R2         N00393 VOUT  1k TC=0,0 
C_C1         N00375 N00393  1n  TC=0,0 
V_V3         VIN 0 DC 0Vdc AC 1Vac 
