* source COMMLAB_EXP4
D_D1         N00131 VOUT D1N4001 
R_R1         0 VOUT  1k TC=0,0 
R_R2         N00131 N00262  1k TC=0,0 
R_R3         N00131 N00258  1k TC=0,0 
R_R4         N00131 0  100k TC=0,0 
V_V1         N00262 0  AC 1
+SIN 0 2.5 500k 0 0 0
V_V2         N00258 0  AC 1
+SIN 0 0.25 20k 0 0 0
