* source DIGI_ELEC_FINAL9_V2
X_U3         0 N03040 VOUT +5V VB N03040 N03080 +5V 555C
V_V1         VIN 0  
+PULSE 0 5 1m 0 0 {0.5*{period}} {period}
R_R3         N03040 N03080  15k TC=0,0 
C_C1         0 VB  100n  TC=0,0 
R_R1         VA VB  25k TC=0,0 
R_R4         0 VOUT  1k TC=0,0 
X_U2A         VIN VOUT VA $G_CD4000_VDD $G_CD4000_VSS CD4030A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V2         +5V 0 5V
R_R2         N03080 +5V  200 TC=0,0 
C_C2         0 N03040  50n  TC=0,0 
.PARAM  period=1m
