* source DIGITAL_LOGIC_PROBE_V5
R_R1         N00653 VDD  2.2Meg TC=0,0 
R_R2         N00644 N00653  680k TC=0,0 
R_R3         0 N00644  560k TC=0,0 
R_R4         N01455 N02893  820 TC=0,0 
R_R5         N01625 N00751  820 TC=0,0 
R_R6         N01477 N02561  820 TC=0,0 
R_R7         N01542 VDD  2.2Meg TC=0,0 
R_R8         0 N01689  220k TC=0,0 
C_C1         N00644 N00653  100p  TC=0,0 
C_C2         N01542 N01477  100p  TC=0,0 
C_C3         N01685 N01689  100n  TC=0,0 
R_R9         N02065 N00644  1k TC=0,0 
D_D2         VDD N02893 LS_3336-TYP 
D_D3         VDD N02561 LT_3333-TYP 
D_D4         VDD N00751 LY_3336-TYP 
X_U1A         N01689 N01625 $G_CD4000_VDD $G_CD4000_VSS CD4049UB PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N01542 N01685 $G_CD4000_VDD $G_CD4000_VSS CD4049UB PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00644 N01477 $G_CD4000_VDD $G_CD4000_VSS CD4049UB PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1E         N00653 N01451 $G_CD4000_VDD $G_CD4000_VSS CD4049UB PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1F         N01451 N01455 $G_CD4000_VDD $G_CD4000_VSS CD4049UB PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
D_D5         N01542 N01625 D1N4001 
V_V1         VDD 0 5.44V
V_Vin         N02065 0 5v
