* source FAST_DIGITAL_HW1
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND X0 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND X1 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1.5ms 0
+  +1.5ms 1
+ ENDREPEAT
X_U16         X1 X0 A $G_DPWR $G_DGND NOR2
X_U17         Z1 Z0N N12821  $G_DPWR $G_DGND AND2
X_U19         N12141 Z1N  $G_DPWR $G_DGND INV
X_U22         N12211 Z0N  $G_DPWR $G_DGND INV
X_U23         Z1N Z0 N12805  $G_DPWR $G_DGND AND2
X_U24         Z0 X1N N12801  $G_DPWR $G_DGND AND2
X_U25         Z1 X0N N12817  $G_DPWR $G_DGND AND2
X_U26         X1 X1N  $G_DPWR $G_DGND INV
X_U27         X0 X0N  $G_DPWR $G_DGND INV
X_U28         N12821 N12817 A N12141 $G_DPWR $G_DGND OR3
X_U29         N12805 N12801 A N12211 $G_DPWR $G_DGND OR3
X_U32         Z1N Z0 EARLY_0  $G_DPWR $G_DGND AND2
X_U33         Z1 Z0N EARLY_1  $G_DPWR $G_DGND AND2
X_U34         Z1N Z0N SYNCHED  $G_DPWR $G_DGND AND2
X_U35         Z1 Z0 WAITING  $G_DPWR $G_DGND AND2
X_U37         N12211 Z0 $G_DPWR $G_DGND BUF
X_U38         N12141 Z1 $G_DPWR $G_DGND BUF
