* source HW5_DIGI_ELEC
C_C1         0 VO  1p  TC=0,0 
M_M1         VIN VDD VO 0 nmos_q4a_2           
V_Vin         VIN 0 5Vdc
V_VDD         VDD 0 5Vdc
M_M2         VIN2 VDD VO2 0 nmos_q4a_2           
C_C2         0 VO2  1p  TC=0,0 
V_V1         VIN2 0  
+PULSE 0 5 0 10p 10p 200n 220n
