* source LAB6COMM
V_fc         N00137 0  
+SIN 0 0.1 510k 0 0 0
V_fm         N00342 0  
+SIN 0 0.1 10k 0 0 0
R_R2         N00920 V+  10k TC=0,0 
R_R3         N01747 N00920  5.1k TC=0,0 
R_R4         0 N01130  220 TC=0,0 
C_C1         X_AM N00920  0.1u  TC=0,0 
L_L1         V+ N00969  10u  
X_U2         N01568 N01624 V+ V- N01657 LM741
C_C2         N00969 V+  10n  TC=0,0 
C_C3         0 N01130  0.1u  TC=0,0 
C_C4         N00969 N01208  0.1u  TC=0,0 
R_R5         0 N01208  2k TC=0,0 
R_R6         0 N01250  10k TC=0,0 
C_C5         0 N01250  1.4n  TC=0,0 
R_R7         N01385 N01250  100k TC=0,0 
C_C6         0 N01385  5u  TC=0,0 
R_R8         N01568 N01385  1k TC=0,0 
R_R9         N01624 0  1k TC=0,0 
R_R10         N01657 N01624  50k TC=0,0 
V_V1         V+ 0 12
V_V2         0 V- 12
R_R11         0 N01747  5.1k TC=0,0 
Q_Q2         N00969 N00920 N01130 Q2N1711
D_D3         N01250 N01208 D1N4001 
D_D4         N03540 N01747 D1N4001 
D_D5         N03590 N03540 D1N4001 
D_D6         N01657 N03590 D1N4001 
E_SUM1         X_AM 0 VALUE {V(N00451)+V(N00137)}
E_MULT1         N00451 0 VALUE {V(N00137)*V(N00342)}
