* source LAB10COMM
C_C1         N00497 GND  4.7n  TC=0,0 
X_Rfreq         N02453 N02119 15V POT PARAMS: SET=0.5 VALUE=10k
R_RA         N00865 N00972  4.7k TC=0,0 
D_D1         15V N00865 D1N4007 
C_C2         N02119 15V  0.1u  TC=0,0 
R_R4         GND N02453  20k TC=0,0 
X_RB         N00865 N00865 N01299 POT PARAMS: SET=0.5 VALUE=1k
R_R5         N02469 15V  15k TC=0,0 
R_R6         N01299 N01804  4.7k TC=0,0 
R_R7         GND SAWTOOTH  100k TC=0,0 
V_V1         15V GND 15Vdc
